US05059597
b) Ethyl 3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
15 g (55.5 mmol) of ethyl 2-(tetrahydropyran-2-yl)-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux with 8.25 g (56 mmol) of 70% strength perchloric acid in 100 ml of ethanol for 30 minutes. 10.5 g (58 mmol) of 30 strength sodium methylate solution are added, the mixture is concentrated, the residue is taken up in water and the solution is saturated with K2CO3 and extracted with CHCl3. The extract is dried over K2CO3 and concentrated and the residue is distilled.

reactant | ethyl 2-(tetrahydropyran-2-yl)-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 55.5 mmol, 15 g | O1C(CCCC1)N1C2CN(CC2CO1)C(=O)OCC | C13H22N2O4
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium methylate | C[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C12NOCC2CN(C1)C(=O)OCC | C8H14N2O3
